### PR TITLE
feat: lemmas about `List.intersperse`

### PR DESCRIPTION
**Pull request by marcusrossel**
This PR adds lemmas about the length and use of `[]?` on results of `List.intersperse`.

This was suggested by @TwoFX as discussed in https://github.com/TwoFX/human-eval-lean/pull/164#discussion_r2074101914.

I am unsure about the correct naming of `intersperse_getElem?_even` and `intersperse_getElem?_odd`.

### CODE REVIEW

File: src/Init/Data/List/Nat/Basic.lean [hunk 1]
```diff
@@ -109,6 +109,32 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
 
+/-! ### intersperse -/
+
+@[simp] theorem length_intersperse (l : List α) (sep : α) :
+    (l.intersperse sep).length = 2 * l.length - 1 := by
+  fun_induction intersperse <;> simp only [intersperse, length_cons, length_nil] at * <;> try omega
+  next h _ => have := length_pos_iff.mpr h; omega
+
+@[simp] theorem intersperse_getElem?_even {l : List α} (sep : α) (h : 1 < l.length) :
+    (l.intersperse sep)[2 * i]? = l[i]? := by
```
Comment (Rob23oba) [inline src/Init/Data/List/Nat/Basic.lean:120]: `h` is unnecessary. Also, maybe call this `intersperse_getElem?_two_mul`?

File: src/Init/Data/List/Nat/Basic.lean [hunk 2]
```diff
@@ -109,6 +109,32 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+  next hn _ =>
+    have ⟨_, tl, hn⟩ := ne_nil_iff_exists_cons.mp hn
+    cases tl <;> cases i
+    case nil.succ  j => cases j <;> simp_all +arith
+    case cons.succ j => have hj : 2 * (j + 1) = 2 * j + 2 := rfl; simp_all
+    all_goals simp [intersperse]
+
+@[simp] theorem intersperse_getElem?_odd {l : List α} (sep : α) (hl : 1 < l.length) (hi : i < l.length - 1) :
+    (l.intersperse sep)[2 * i + 1]? = some sep := by
+  fun_induction intersperse generalizing i <;> try contradiction
```
Comment (Rob23oba) [inline src/Init/Data/List/Nat/Basic.lean:131]: Combine `hl` and `hi` into `i + 1 < l.length` perhaps (also `intersperse_getElem?_two_mul_add_one` like above).

Comment (Rob23oba) [reply src/Init/Data/List/Nat/Basic.lean:131]: Maybe don't make this one a `simp` lemma (because of the side condition) but the same one for `getElem` would work nicely.

File: src/Init/Data/List/Nat/Basic.lean (hunk 1 above)
Comment (marcusrossel) [reply src/Init/Data/List/Nat/Basic.lean:120]: fixed

File: src/Init/Data/List/Nat/Basic.lean (hunk 2 above)
Comment (marcusrossel) [reply src/Init/Data/List/Nat/Basic.lean:131]: fixed

**Comment by Rob23oba** [comment]
In order to add a label, write a comment with just that label name (you can also then delete the comment afterwards)

**Comment by marcusrossel** [comment]
changelog-library

File: src/Init/Data/List/Nat/Basic.lean [hunk 3]
```diff
@@ -109,6 +109,30 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+  induction l using List.intersperse.induct_unfolding sep generalizing i
+  · rfl
+  · cases i <;> rfl
+  · rename_i ih
+    cases i
+    · rfl
+    · simp [Nat.mul_succ, ih]
+
+theorem getElem?_intersperse_two_mul_add_one {l : List α} (sep : α) (h : i + 1 < l.length) :
+    (l.intersperse sep)[2 * i + 1]? = some sep := by
```
Comment (Rob23oba) [inline src/Init/Data/List/Nat/Basic.lean:130]: Perhaps revert the order of the operands, for convenience the proofs should be front.

File: src/Init/Data/List/Nat/Basic.lean [hunk 4]
```diff
@@ -109,6 +109,30 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+  fun_induction intersperse generalizing i <;> try contradiction
+  next hn _ =>
+    have ⟨_, tl, _⟩ := ne_nil_iff_exists_cons.mp hn
+    cases tl <;> cases i <;> simp_all +arith
+
```
Comment (Rob23oba) [inline src/Init/Data/List/Nat/Basic.lean:135]: If you don't mind, adding `simp` lemmas for `getElem_intersperse` would probably also be nice (something like `@[simp] getElem_intersperse_two_mul_add_one {i : Nat} {l : List α} {sep : α} (h : 2 * i + 1 < (l.intersperse sep).length) : (l.intersperse sep)[2 * i + 1] = sep`)

**Comment by marcusrossel** [comment]
@Rob23oba Should this also be included?

```
@[simp] theorem getElem_intersperse_two_mul
    {l : List α} (h : 2 * i < (l.intersperse sep).length) :
    (l.intersperse sep)[2 * i] = l[i]'(by rw [length_intersperse] at h; omega) := by
  rw [←Option.some_inj, ←getElem?_eq_getElem h]
  simp
```

**Comment by Rob23oba** [comment]
Yeah, sure, why not

File: src/Init/Data/List/Nat/Basic.lean [hunk 5]
```diff
@@ -109,6 +109,41 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+  · contradiction
+  · rename_i hn _
+    have ⟨_, tl, _⟩ := ne_nil_iff_exists_cons.mp hn
+    cases tl <;> cases i <;> simp_all +arith
+
+@[simp] theorem getElem_intersperse_two_mul_add_one
+    {l : List α} (h : 2 * i + 1 < (l.intersperse sep).length) :
+    (l.intersperse sep)[2 * i + 1] = sep := by
+  rw [←Option.some_inj, ←getElem?_eq_getElem h, getElem?_intersperse_two_mul_add_one]
+  rw [length_intersperse] at h
```
Comment (Rob23oba) [inline src/Init/Data/List/Nat/Basic.lean:144]: Please keep a space after the arrows.

File: src/Init/Data/List/Nat/Basic.lean [hunk 6]
```diff
@@ -109,6 +109,42 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
   simp [rightpad]
   omega
 
+/-! ### intersperse -/
+
+@[simp] theorem length_intersperse (l : List α) (sep : α) :
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:114]:
```suggestion
@[simp] theorem length_intersperse {l : List α} {sep : α} :
```

File: src/Init/Data/List/Nat/Basic.lean [hunk 7]
```diff
@@ -109,6 +109,42 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+    (l.intersperse sep).length = 2 * l.length - 1 := by
+  fun_induction intersperse <;> simp only [intersperse, length_cons, length_nil] at *
+  rename_i h _
+  have := length_pos_iff.mpr h
+  omega
+
+@[simp] theorem getElem?_intersperse_two_mul {l : List α} (sep : α) :
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:121]:
```suggestion
@[simp] theorem getElem?_intersperse_two_mul {l : List α} {sep : α} :
```

File: src/Init/Data/List/Nat/Basic.lean [hunk 8]
```diff
@@ -109,6 +109,42 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+    (l.intersperse sep)[2 * i]? = l[i]? := by
+  induction l using intersperse.induct_unfolding sep generalizing i <;> cases i
+  all_goals simp [mul_succ, *]
+
+theorem getElem?_intersperse_two_mul_add_one {l : List α} (h : i + 1 < l.length) (sep : α) :
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:126]:
```suggestion
theorem getElem?_intersperse_two_mul_add_one {l : List α} (h : i + 1 < l.length) {sep : α} :
```

File: src/Init/Data/List/Nat/Basic.lean [hunk 9]
```diff
@@ -109,6 +109,42 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+    (l.intersperse sep)[2 * i + 1]? = some sep := by
+  fun_induction intersperse generalizing i
+  · contradiction
+  · contradiction
+  · rename_i hn _
+    have ⟨_, tl, _⟩ := ne_nil_iff_exists_cons.mp hn
+    cases tl <;> cases i <;> simp_all +arith
+
+@[simp] theorem getElem_intersperse_two_mul
+    {l : List α} (h : 2 * i < (l.intersperse sep).length) :
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:136]: It's a bit strange that `sep` is an autoimplicit in the last two lemmas but not in the others.

File: src/Init/Data/List/Nat/Basic.lean [hunk 10]
```diff
@@ -109,6 +109,42 @@ theorem length_rightpad {n : Nat} {a : α} {l : List α} :
...
+theorem getElem?_intersperse_two_mul_add_one {l : List α} (h : i + 1 < l.length) (sep : α) :
+    (l.intersperse sep)[2 * i + 1]? = some sep := by
+  fun_induction intersperse generalizing i
+  · contradiction
+  · contradiction
+  · rename_i hn _
+    have ⟨_, tl, _⟩ := ne_nil_iff_exists_cons.mp hn
+    cases tl <;> cases i <;> simp_all +arith
+
+@[simp] theorem getElem_intersperse_two_mul
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:135]: I think it would also be good to have the other direction `getElem_eq_getElem_intersperse_two_mul` where the proof argument `h` is `i < l.length` so that it is easy to `rw` from `l[i]` to `(l.intersperse sep)[2 * i]` without incurring an additional proof obligation.

**Review by TwoFX — APPROVED** [review]
Thanks!

**Comment by kim-em** [comment]
I think with API like this it's good to always include the "unconditional" `getElem_intersperse` lemma, that just has an `if` on the right hand side handling the even and odd cases.

1. `grind` likes these
2. sometimes you just want to blast through the proof ("be like `grind`"), using `rw [...]; split` to drive case splitting, rather than `by_cases ...; rw [...]; rw [...]`.
